US06177423B1
(S)-6-(3-Amino-pyrrolidin-1-yl)-5-cyano-2-hydroxy-benzo[de]isoquinoline-1,3-dione, Hydrochloride
The (S)-[1-(5-cyano-2-hydroxy-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinoline-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester from above was dissolved in EtOH and reacted with a stream of HCl gas forming a precipitate which was collected by filtration and dried to give 0.021 g of the title compound, mp>250° C.

reactant | (S)-[1-(5-cyano-2-hydroxy-1,3-dioxo-2,3-dihydro-1H-benzo[de]isoquinoline-6-yl)-pyrrolidin-3-yl]-carbamic acid, tert-butyl ester | C(#N)C=1C(=C2C3=C(C(N(C(C3=CC=C2)=O)O)=O)C1)N1C[C@H](CC1)NC(OC(C)(C)C)=O | C22H22N4O5
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
product | (S)-6-(3-Amino-pyrrolidin-1-yl)-5-cyano-2-hydroxy-benzo[de]isoquinoline-1,3-dione, Hydrochloride | 0.021 g | Cl.N[C@@H]1CN(CC1)C=1C(=CC=2C(N(C(C3=CC=CC1C23)=O)O)=O)C#N | InChI=1S/C17H14N4O3.ClH/c18-7-9-6-13-14-11(15(9)20-5-4-10(19)8-20)2-1-3-12(14)16(22)21(24)17(13)23;/h1-3,6,10,24H,4-5,8,19H2;1H/t10-;/m0./s1
